US06995179B2
2) Synthesis of 5-(2-phenyloxyethyl) 3-(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate:
250 mg (0.69 mmol) of mono(2-cyanoethyl) 4-(3-chlorophenyl-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate, 0.1 ml (0.8 mmol) of 2-phenyloxyethanol, 187 mg (0.98 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 18 mg (0.15 mmol) of 4-dimethylaminopyridine were stirred at room temperature for 2 days. Water was added to the obtained mixture. After the extraction with chloroform, the organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by the silica gel chromatography (hexane/ethyl acetate=2/1) to obtain the title compound.

reactant | 3-chlorophenyl-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | ClC=1C=C(C=CC1)N1C(=C(CC(=C1C)C(=O)[O-])C(=O)[O-])C
reactant | 2-phenyloxyethanol | 0.8 mmol, 0.1 ml | C1(=CC=CC=C1)OCCO | C8H10O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.98 mmol, 187 mg | Cl.CN(CCCN=C=NCC)C
catalyst | 4-dimethylaminopyridine | 0.15 mmol, 18 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | Water | O | H2O
product | 5-(2-phenyloxyethyl) 3-(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OCCOC1=CC=CC=C1)C)C)C(=O)OCCC#N | C26H25ClN2O5
